US09163011B2
b) 3-(di-tert-Butoxycarbonyl-amino)-5-vinyl-pyrazine-2-carboxylic acid methyl ester
To an ice cooled solution of 3-amino-5-vinyl-pyrazine-2-carboxylic acid methyl ester (1.28 g, 7.14 mmol) in DCM (45 ml) was added Boc2O (8.58 g, 39.3 mmol) and the mixture was stirred at room temperature for 30 min, then the mixture was heated to 40° C. for 4 h. After cooling to room temperature water was added and the mixture was extracted with DCM. The combined organic layers were washed with 0.5N HCl and saturated aq. NaCl, dried with Na2SO4 and evaporated. The residue was purified by chromatography on silica gel (cyclohexane+5% NEt3 to EtOAc+5% NEt3) to provide the title compound as yellow solid.

reactant | 3-amino-5-vinyl-pyrazine-2-carboxylic acid methyl ester | 7.14 mmol, 1.28 g | COC(=O)C1=NC=C(N=C1N)C=C | C8H9N3O2
reactant | Boc2O | 39.3 mmol, 8.58 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | DCM | 45 ml | C(Cl)Cl | CH2Cl2
product | 3-(di-tert-Butoxycarbonyl-amino)-5-vinyl-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(N=C1N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C=C | C18H25N3O6
